US03954894
b. Preparation of 3-(1-lithio-1,3-dimethylpentyl)-alphamethyl-styrene
316 g (2 moles) of 1,3-diisopropenyl benzene (DIPB) and 400 ml benzene are charged to a dry, argon flushed, 12-liter 3-neck, round-bottom reaction flask. The reaction flask is equipped with a stirrer, thermometer, addition funnel and a dry ice-hexane cooling bath. The flask and contents are cooled to -20° and a premixed solution of 1670 ml of a 1.2N sec-butyllithium in hexane (2 moles) and 202 g of TEA (2 moles) are added dropwise over a period of 2 hours. The temperature is held between -20° and -5° throughout the sec-butyllithium-TEA addition.

reactant | 1,3-diisopropenyl benzene | 2 moles, 316 g | C(=C)(C)C1=CC(=CC=C1)C(=C)C | C12H14
reactant | sec-butyllithium | 1.2N | C(C)(CC)[Li]
reactant | hexane | 2 moles | CCCCCC | C6H14
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 3-(1-lithio-1,3-dimethylpentyl)-alphamethyl-styrene | [Li]C(CC(CC)C)(C)C=1C=C(C(=C)C)C=CC1 | InChI=1S/C16H23.Li/c1-6-13(4)10-14(5)16-9-7-8-15(11-16)12(2)3;/h7-9,11,13H,2,6,10H2,1,3-5H3;
